** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-197/sim/jitter-calibration/testbench/tb_jitter_calibration.sch
**.subckt tb_jitter_calibration
R1 CLK GND 1k m=1
**** begin user architecture code

** GENERATED -- variant K05a: 300 cycles, nominal period
** 3.9952 ns, injected period jitter 0.500000% RMS
** (seeded RNG, seed 185005), TR = TF = 20 ps.
VCLK CLK GND pwl(
+ 0.000000n 0 1.990000n 0 2.010000n 1.8 3.983498n 1.8
+ 4.003498n 0 5.976996n 0 5.996996n 1.8 7.969382n 1.8
+ 7.989382n 0 9.961768n 0 9.981768n 1.8 11.963771n 1.8
+ 11.983771n 0 13.965775n 0 13.985775n 1.8 15.972743n 1.8
+ 15.992743n 0 17.979711n 0 17.999711n 1.8 19.979045n 1.8
+ 19.999045n 0 21.978378n 0 21.998378n 1.8 23.983612n 1.8
+ 24.003612n 0 25.988847n 0 26.008847n 1.8 27.971746n 1.8
+ 27.991746n 0 29.954644n 0 29.974644n 1.8 31.950526n 1.8
+ 31.970526n 0 33.946408n 0 33.966408n 1.8 35.938234n 1.8
+ 35.958234n 0 37.930060n 0 37.950060n 1.8 39.930361n 1.8
+ 39.950361n 0 41.930663n 0 41.950663n 1.8 43.951669n 1.8
+ 43.971669n 0 45.972676n 0 45.992676n 1.8 47.960135n 1.8
+ 47.980135n 0 49.947594n 0 49.967594n 1.8 51.944738n 1.8
+ 51.964738n 0 53.941883n 0 53.961883n 1.8 55.933416n 1.8
+ 55.953416n 0 57.924949n 0 57.944949n 1.8 59.915735n 1.8
+ 59.935735n 0 61.906522n 0 61.926522n 1.8 63.901233n 1.8
+ 63.921233n 0 65.895944n 0 65.915944n 1.8 67.889275n 1.8
+ 67.909275n 0 69.882606n 0 69.902606n 1.8 71.899384n 1.8
+ 71.919384n 0 73.916162n 0 73.936162n 1.8 75.913887n 1.8
+ 75.933887n 0 77.911612n 0 77.931612n 1.8 79.907868n 1.8
+ 79.927868n 0 81.904123n 0 81.924123n 1.8 83.915443n 1.8
+ 83.935443n 0 85.926762n 0 85.946762n 1.8 87.918899n 1.8
+ 87.938899n 0 89.911036n 0 89.931036n 1.8 91.910183n 1.8
+ 91.930183n 0 93.909330n 0 93.929330n 1.8 95.896705n 1.8
+ 95.916705n 0 97.884081n 0 97.904081n 1.8 99.897644n 1.8
+ 99.917644n 0 101.911208n 0 101.931208n 1.8 103.920550n 1.8
+ 103.940550n 0 105.929891n 0 105.949891n 1.8 107.947874n 1.8
+ 107.967874n 0 109.965858n 0 109.985858n 1.8 111.959682n 1.8
+ 111.979682n 0 113.953505n 0 113.973505n 1.8 115.953177n 1.8
+ 115.973177n 0 117.952848n 0 117.972848n 1.8 119.923821n 1.8
+ 119.943821n 0 121.894794n 0 121.914794n 1.8 123.892514n 1.8
+ 123.912514n 0 125.890233n 0 125.910233n 1.8 127.889136n 1.8
+ 127.909136n 0 129.888039n 0 129.908039n 1.8 131.864326n 1.8
+ 131.884326n 0 133.840614n 0 133.860614n 1.8 135.850437n 1.8
+ 135.870437n 0 137.860260n 0 137.880260n 1.8 139.841339n 1.8
+ 139.861339n 0 141.822418n 0 141.842418n 1.8 143.807030n 1.8
+ 143.827030n 0 145.791642n 0 145.811642n 1.8 147.764241n 1.8
+ 147.784241n 0 149.736839n 0 149.756839n 1.8 151.729350n 1.8
+ 151.749350n 0 153.721862n 0 153.741862n 1.8 155.712749n 1.8
+ 155.732749n 0 157.703635n 0 157.723635n 1.8 159.705101n 1.8
+ 159.725101n 0 161.706567n 0 161.726567n 1.8 163.695709n 1.8
+ 163.715709n 0 165.684851n 0 165.704851n 1.8 167.678890n 1.8
+ 167.698890n 0 169.672928n 0 169.692928n 1.8 171.661539n 1.8
+ 171.681539n 0 173.650149n 0 173.670149n 1.8 175.644637n 1.8
+ 175.664637n 0 177.639125n 0 177.659125n 1.8 179.630204n 1.8
+ 179.650204n 0 181.621283n 0 181.641283n 1.8 183.614430n 1.8
+ 183.634430n 0 185.607578n 0 185.627578n 1.8 187.588225n 1.8
+ 187.608225n 0 189.568872n 0 189.588872n 1.8 191.565311n 1.8
+ 191.585311n 0 193.561749n 0 193.581749n 1.8 195.556388n 1.8
+ 195.576388n 0 197.551027n 0 197.571027n 1.8 199.525061n 1.8
+ 199.545061n 0 201.499094n 0 201.519094n 1.8 203.490215n 1.8
+ 203.510215n 0 205.481335n 0 205.501335n 1.8 207.464766n 1.8
+ 207.484766n 0 209.448197n 0 209.468197n 1.8 211.448054n 1.8
+ 211.468054n 0 213.447911n 0 213.467911n 1.8 215.453894n 1.8
+ 215.473894n 0 217.459878n 0 217.479878n 1.8 219.452957n 1.8
+ 219.472957n 0 221.446035n 0 221.466035n 1.8 223.442998n 1.8
+ 223.462998n 0 225.439961n 0 225.459961n 1.8 227.438460n 1.8
+ 227.458460n 0 229.436959n 0 229.456959n 1.8 231.413590n 1.8
+ 231.433590n 0 233.390222n 0 233.410222n 1.8 235.387086n 1.8
+ 235.407086n 0 237.383950n 0 237.403950n 1.8 239.355187n 1.8
+ 239.375187n 0 241.326423n 0 241.346423n 1.8 243.336250n 1.8
+ 243.356250n 0 245.346077n 0 245.366077n 1.8 247.337898n 1.8
+ 247.357898n 0 249.329720n 0 249.349720n 1.8 251.305792n 1.8
+ 251.325792n 0 253.281864n 0 253.301864n 1.8 255.260521n 1.8
+ 255.280521n 0 257.239178n 0 257.259178n 1.8 259.247904n 1.8
+ 259.267904n 0 261.256630n 0 261.276630n 1.8 263.244386n 1.8
+ 263.264386n 0 265.232142n 0 265.252142n 1.8 267.243983n 1.8
+ 267.263983n 0 269.255823n 0 269.275823n 1.8 271.257002n 1.8
+ 271.277002n 0 273.258181n 0 273.278181n 1.8 275.237435n 1.8
+ 275.257435n 0 277.216689n 0 277.236689n 1.8 279.216747n 1.8
+ 279.236747n 0 281.216806n 0 281.236806n 1.8 283.214901n 1.8
+ 283.234901n 0 285.212996n 0 285.232996n 1.8 287.214624n 1.8
+ 287.234624n 0 289.216251n 0 289.236251n 1.8 291.202965n 1.8
+ 291.222965n 0 293.189680n 0 293.209680n 1.8 295.175468n 1.8
+ 295.195468n 0 297.161257n 0 297.181257n 1.8 299.163649n 1.8
+ 299.183649n 0 301.166042n 0 301.186042n 1.8 303.164289n 1.8
+ 303.184289n 0 305.162536n 0 305.182536n 1.8 307.170244n 1.8
+ 307.190244n 0 309.177953n 0 309.197953n 1.8 311.191314n 1.8
+ 311.211314n 0 313.204674n 0 313.224674n 1.8 315.215379n 1.8
+ 315.235379n 0 317.226083n 0 317.246083n 1.8 319.228464n 1.8
+ 319.248464n 0 321.230844n 0 321.250844n 1.8 323.227699n 1.8
+ 323.247699n 0 325.224553n 0 325.244553n 1.8 327.239139n 1.8
+ 327.259139n 0 329.253724n 0 329.273724n 1.8 331.245095n 1.8
+ 331.265095n 0 333.236466n 0 333.256466n 1.8 335.244477n 1.8
+ 335.264477n 0 337.252487n 0 337.272487n 1.8 339.254657n 1.8
+ 339.274657n 0 341.256826n 0 341.276826n 1.8 343.259420n 1.8
+ 343.279420n 0 345.262013n 0 345.282013n 1.8 347.273778n 1.8
+ 347.293778n 0 349.285543n 0 349.305543n 1.8 351.287945n 1.8
+ 351.307945n 0 353.290348n 0 353.310348n 1.8 355.296738n 1.8
+ 355.316738n 0 357.303128n 0 357.323128n 1.8 359.301622n 1.8
+ 359.321622n 0 361.300116n 0 361.320116n 1.8 363.279782n 1.8
+ 363.299782n 0 365.259449n 0 365.279449n 1.8 367.258973n 1.8
+ 367.278973n 0 369.258498n 0 369.278498n 1.8 371.261226n 1.8
+ 371.281226n 0 373.263954n 0 373.283954n 1.8 375.255363n 1.8
+ 375.275363n 0 377.246773n 0 377.266773n 1.8 379.224292n 1.8
+ 379.244292n 0 381.201811n 0 381.221811n 1.8 383.197783n 1.8
+ 383.217783n 0 385.193755n 0 385.213755n 1.8 387.196569n 1.8
+ 387.216569n 0 389.199382n 0 389.219382n 1.8 391.193452n 1.8
+ 391.213452n 0 393.187522n 0 393.207522n 1.8 395.176362n 1.8
+ 395.196362n 0 397.165202n 0 397.185202n 1.8 399.160503n 1.8
+ 399.180503n 0 401.155804n 0 401.175804n 1.8 403.155182n 1.8
+ 403.175182n 0 405.154559n 0 405.174559n 1.8 407.146918n 1.8
+ 407.166918n 0 409.139276n 0 409.159276n 1.8 411.140284n 1.8
+ 411.160284n 0 413.141293n 0 413.161293n 1.8 415.134443n 1.8
+ 415.154443n 0 417.127594n 0 417.147594n 1.8 419.111847n 1.8
+ 419.131847n 0 421.096100n 0 421.116100n 1.8 423.106903n 1.8
+ 423.126903n 0 425.117705n 0 425.137705n 1.8 427.111903n 1.8
+ 427.131903n 0 429.106101n 0 429.126101n 1.8 431.124629n 1.8
+ 431.144629n 0 433.143158n 0 433.163158n 1.8 435.150667n 1.8
+ 435.170667n 0 437.158175n 0 437.178175n 1.8 439.148801n 1.8
+ 439.168801n 0 441.139427n 0 441.159427n 1.8 443.145052n 1.8
+ 443.165052n 0 445.150676n 0 445.170676n 1.8 447.153497n 1.8
+ 447.173497n 0 449.156318n 0 449.176318n 1.8 451.169914n 1.8
+ 451.189914n 0 453.183510n 0 453.203510n 1.8 455.187777n 1.8
+ 455.207777n 0 457.192044n 0 457.212044n 1.8 459.193777n 1.8
+ 459.213777n 0 461.195509n 0 461.215509n 1.8 463.193525n 1.8
+ 463.213525n 0 465.191540n 0 465.211540n 1.8 467.196298n 1.8
+ 467.216298n 0 469.201055n 0 469.221055n 1.8 471.204091n 1.8
+ 471.224091n 0 473.207126n 0 473.227126n 1.8 475.197856n 1.8
+ 475.217856n 0 477.188586n 0 477.208586n 1.8 479.179687n 1.8
+ 479.199687n 0 481.170788n 0 481.190788n 1.8 483.181419n 1.8
+ 483.201419n 0 485.192049n 0 485.212049n 1.8 487.174703n 1.8
+ 487.194703n 0 489.157357n 0 489.177357n 1.8 491.144592n 1.8
+ 491.164592n 0 493.131827n 0 493.151827n 1.8 495.135660n 1.8
+ 495.155660n 0 497.139493n 0 497.159493n 1.8 499.128555n 1.8
+ 499.148555n 0 501.117617n 0 501.137617n 1.8 503.113288n 1.8
+ 503.133288n 0 505.108958n 0 505.128958n 1.8 507.088435n 1.8
+ 507.108435n 0 509.067912n 0 509.087912n 1.8 511.066293n 1.8
+ 511.086293n 0 513.064673n 0 513.084673n 1.8 515.064427n 1.8
+ 515.084427n 0 517.064181n 0 517.084181n 1.8 519.040667n 1.8
+ 519.060667n 0 521.017153n 0 521.037153n 1.8 523.012636n 1.8
+ 523.032636n 0 525.008119n 0 525.028119n 1.8 527.012320n 1.8
+ 527.032320n 0 529.016522n 0 529.036522n 1.8 531.017614n 1.8
+ 531.037614n 0 533.018706n 0 533.038706n 1.8 535.026243n 1.8
+ 535.046243n 0 537.033781n 0 537.053781n 1.8 539.017929n 1.8
+ 539.037929n 0 541.002077n 0 541.022077n 1.8 543.001774n 1.8
+ 543.021774n 0 545.001470n 0 545.021470n 1.8 547.010772n 1.8
+ 547.030772n 0 549.020073n 0 549.040073n 1.8 551.006203n 1.8
+ 551.026203n 0 552.992334n 0 553.012334n 1.8 554.991685n 1.8
+ 555.011685n 0 556.991036n 0 557.011036n 1.8 558.999757n 1.8
+ 559.019757n 0 561.008478n 0 561.028478n 1.8 563.008869n 1.8
+ 563.028869n 0 565.009260n 0 565.029260n 1.8 567.010967n 1.8
+ 567.030967n 0 569.012674n 0 569.032674n 1.8 571.009851n 1.8
+ 571.029851n 0 573.007028n 0 573.027028n 1.8 575.017508n 1.8
+ 575.037508n 0 577.027989n 0 577.047989n 1.8 579.021746n 1.8
+ 579.041746n 0 581.015502n 0 581.035502n 1.8 583.018118n 1.8
+ 583.038118n 0 585.020734n 0 585.040734n 1.8 587.003886n 1.8
+ 587.023886n 0 588.987037n 0 589.007037n 1.8 590.985442n 1.8
+ 591.005442n 0 592.983847n 0 593.003847n 1.8 594.988646n 1.8
+ 595.008646n 0 596.993445n 0 597.013445n 1.8 598.997725n 1.8
+ 599.017725n 0 601.002005n 0 601.022005n 1.8 603.001821n 1.8
+ 603.021821n 0 605.001638n 0 605.021638n 1.8 607.001974n 1.8
+ 607.021974n 0 609.002310n 0 609.022310n 1.8 611.004307n 1.8
+ 611.024307n 0 613.006303n 0 613.026303n 1.8 615.026753n 1.8
+ 615.046753n 0 617.047202n 0 617.067202n 1.8 619.044937n 1.8
+ 619.064937n 0 621.042672n 0 621.062672n 1.8 623.045414n 1.8
+ 623.065414n 0 625.048155n 0 625.068155n 1.8 627.045477n 1.8
+ 627.065477n 0 629.042799n 0 629.062799n 1.8 631.043264n 1.8
+ 631.063264n 0 633.043729n 0 633.063729n 1.8 635.040333n 1.8
+ 635.060333n 0 637.036937n 0 637.056937n 1.8 639.039543n 1.8
+ 639.059543n 0 641.042150n 0 641.062150n 1.8 643.038009n 1.8
+ 643.058009n 0 645.033868n 0 645.053868n 1.8 647.033003n 1.8
+ 647.053003n 0 649.032137n 0 649.052137n 1.8 651.028433n 1.8
+ 651.048433n 0 653.024728n 0 653.044728n 1.8 655.023122n 1.8
+ 655.043122n 0 657.021517n 0 657.041517n 1.8 659.019248n 1.8
+ 659.039248n 0 661.016978n 0 661.036978n 1.8 663.019969n 1.8
+ 663.039969n 0 665.022959n 0 665.042959n 1.8 667.017432n 1.8
+ 667.037432n 0 669.011905n 0 669.031905n 1.8 671.008172n 1.8
+ 671.028172n 0 673.004439n 0 673.024439n 1.8 674.994960n 1.8
+ 675.014960n 0 676.985480n 0 677.005480n 1.8 678.975806n 1.8
+ 678.995806n 0 680.966132n 0 680.986132n 1.8 682.992750n 1.8
+ 683.012750n 0 685.019368n 0 685.039368n 1.8 687.017252n 1.8
+ 687.037252n 0 689.015136n 0 689.035136n 1.8 691.007471n 1.8
+ 691.027471n 0 692.999806n 0 693.019806n 1.8 694.995958n 1.8
+ 695.015958n 0 696.992110n 0 697.012110n 1.8 698.988394n 1.8
+ 699.008394n 0 700.984679n 0 701.004679n 1.8 702.990597n 1.8
+ 703.010597n 0 704.996514n 0 705.016514n 1.8 706.998105n 1.8
+ 707.018105n 0 708.999695n 0 709.019695n 1.8 711.004410n 1.8
+ 711.024410n 0 713.009125n 0 713.029125n 1.8 715.002662n 1.8
+ 715.022662n 0 716.996200n 0 717.016200n 1.8 718.981549n 1.8
+ 719.001549n 0 720.966898n 0 720.986898n 1.8 722.972712n 1.8
+ 722.992712n 0 724.978527n 0 724.998527n 1.8 726.970815n 1.8
+ 726.990815n 0 728.963102n 0 728.983102n 1.8 730.957559n 1.8
+ 730.977559n 0 732.952017n 0 732.972017n 1.8 734.930981n 1.8
+ 734.950981n 0 736.909946n 0 736.929946n 1.8 738.901245n 1.8
+ 738.921245n 0 740.892545n 0 740.912545n 1.8 742.894129n 1.8
+ 742.914129n 0 744.895713n 0 744.915713n 1.8 746.891038n 1.8
+ 746.911038n 0 748.886364n 0 748.906364n 1.8 750.895025n 1.8
+ 750.915025n 0 752.903686n 0 752.923686n 1.8 754.898231n 1.8
+ 754.918231n 0 756.892776n 0 756.912776n 1.8 758.876862n 1.8
+ 758.896862n 0 760.860948n 0 760.880948n 1.8 762.862330n 1.8
+ 762.882330n 0 764.863712n 0 764.883712n 1.8 766.862275n 1.8
+ 766.882275n 0 768.860839n 0 768.880839n 1.8 770.869248n 1.8
+ 770.889248n 0 772.877657n 0 772.897657n 1.8 774.893334n 1.8
+ 774.913334n 0 776.909012n 0 776.929012n 1.8 778.916794n 1.8
+ 778.936794n 0 780.924576n 0 780.944576n 1.8 782.926371n 1.8
+ 782.946371n 0 784.928166n 0 784.948166n 1.8 786.932325n 1.8
+ 786.952325n 0 788.936483n 0 788.956483n 1.8 790.942944n 1.8
+ 790.962944n 0 792.949404n 0 792.969404n 1.8 794.946133n 1.8
+ 794.966133n 0 796.942861n 0 796.962861n 1.8 798.940678n 1.8
+ 798.960678n 0 800.938496n 0 800.958496n 1.8 802.917206n 1.8
+ 802.937206n 0 804.895916n 0 804.915916n 1.8 806.922739n 1.8
+ 806.942739n 0 808.949562n 0 808.969562n 1.8 810.958409n 1.8
+ 810.978409n 0 812.967256n 0 812.987256n 1.8 814.958079n 1.8
+ 814.978079n 0 816.948902n 0 816.968902n 1.8 818.948459n 1.8
+ 818.968459n 0 820.948016n 0 820.968016n 1.8 822.949995n 1.8
+ 822.969995n 0 824.951975n 0 824.971975n 1.8 826.948886n 1.8
+ 826.968886n 0 828.945797n 0 828.965797n 1.8 830.945331n 1.8
+ 830.965331n 0 832.944866n 0 832.964866n 1.8 834.958816n 1.8
+ 834.978816n 0 836.972767n 0 836.992767n 1.8 838.967613n 1.8
+ 838.987613n 0 840.962459n 0 840.982459n 1.8 842.960994n 1.8
+ 842.980994n 0 844.959528n 0 844.979528n 1.8 846.955035n 1.8
+ 846.975035n 0 848.950542n 0 848.970542n 1.8 850.969794n 1.8
+ 850.989794n 0 852.989046n 0 853.009046n 1.8 854.981294n 1.8
+ 855.001294n 0 856.973542n 0 856.993542n 1.8 858.976088n 1.8
+ 858.996088n 0 860.978633n 0 860.998633n 1.8 862.984235n 1.8
+ 863.004235n 0 864.989837n 0 865.009837n 1.8 866.980402n 1.8
+ 867.000402n 0 868.970966n 0 868.990966n 1.8 870.973622n 1.8
+ 870.993622n 0 872.976277n 0 872.996277n 1.8 874.978336n 1.8
+ 874.998336n 0 876.980395n 0 877.000395n 1.8 878.992157n 1.8
+ 879.012157n 0 881.003918n 0 881.023918n 1.8 882.996632n 1.8
+ 883.016632n 0 884.989346n 0 885.009346n 1.8 886.964170n 1.8
+ 886.984170n 0 888.938994n 0 888.958994n 1.8 890.924569n 1.8
+ 890.944569n 0 892.910144n 0 892.930144n 1.8 894.918994n 1.8
+ 894.938994n 0 896.927843n 0 896.947843n 1.8 898.914493n 1.8
+ 898.934493n 0 900.901143n 0 900.921143n 1.8 902.902335n 1.8
+ 902.922335n 0 904.903527n 0 904.923527n 1.8 906.901703n 1.8
+ 906.921703n 0 908.899880n 0 908.919880n 1.8 910.894860n 1.8
+ 910.914860n 0 912.889839n 0 912.909839n 1.8 914.885876n 1.8
+ 914.905876n 0 916.881913n 0 916.901913n 1.8 918.890805n 1.8
+ 918.910805n 0 920.899697n 0 920.919697n 1.8 922.901459n 1.8
+ 922.921459n 0 924.903221n 0 924.923221n 1.8 926.905734n 1.8
+ 926.925734n 0 928.908248n 0 928.928248n 1.8 930.896515n 1.8
+ 930.916515n 0 932.884783n 0 932.904783n 1.8 934.891337n 1.8
+ 934.911337n 0 936.897892n 0 936.917892n 1.8 938.895709n 1.8
+ 938.915709n 0 940.893526n 0 940.913526n 1.8 942.874342n 1.8
+ 942.894342n 0 944.855159n 0 944.875159n 1.8 946.865537n 1.8
+ 946.885537n 0 948.875915n 0 948.895915n 1.8 950.879181n 1.8
+ 950.899181n 0 952.882447n 0 952.902447n 1.8 954.860445n 1.8
+ 954.880445n 0 956.838443n 0 956.858443n 1.8 958.839605n 1.8
+ 958.859605n 0 960.840767n 0 960.860767n 1.8 962.820486n 1.8
+ 962.840486n 0 964.800204n 0 964.820204n 1.8 966.796107n 1.8
+ 966.816107n 0 968.792009n 0 968.812009n 1.8 970.778628n 1.8
+ 970.798628n 0 972.765246n 0 972.785246n 1.8 974.775924n 1.8
+ 974.795924n 0 976.786603n 0 976.806603n 1.8 978.785421n 1.8
+ 978.805421n 0 980.784240n 0 980.804240n 1.8 982.778968n 1.8
+ 982.798968n 0 984.773696n 0 984.793696n 1.8 986.781485n 1.8
+ 986.801485n 0 988.789274n 0 988.809274n 1.8 990.793888n 1.8
+ 990.813888n 0 992.798503n 0 992.818503n 1.8 994.805470n 1.8
+ 994.825470n 0 996.812438n 0 996.832438n 1.8 998.839498n 1.8
+ 998.859498n 0 1000.866559n 0 1000.886559n 1.8 1002.848064n 1.8
+ 1002.868064n 0 1004.829569n 0 1004.849569n 1.8 1006.819494n 1.8
+ 1006.839494n 0 1008.809418n 0 1008.829418n 1.8 1010.803228n 1.8
+ 1010.823228n 0 1012.797038n 0 1012.817038n 1.8 1014.806556n 1.8
+ 1014.826556n 0 1016.816074n 0 1016.836074n 1.8 1018.807877n 1.8
+ 1018.827877n 0 1020.799681n 0 1020.819681n 1.8 1022.798318n 1.8
+ 1022.818318n 0 1024.796955n 0 1024.816955n 1.8 1026.788285n 1.8
+ 1026.808285n 0 1028.779614n 0 1028.799614n 1.8 1030.784939n 1.8
+ 1030.804939n 0 1032.790264n 0 1032.810264n 1.8 1034.781556n 1.8
+ 1034.801556n 0 1036.772848n 0 1036.792848n 1.8 1038.777515n 1.8
+ 1038.797515n 0 1040.782183n 0 1040.802183n 1.8 1042.774967n 1.8
+ 1042.794967n 0 1044.767752n 0 1044.787752n 1.8 1046.764504n 1.8
+ 1046.784504n 0 1048.761256n 0 1048.781256n 1.8 1050.753849n 1.8
+ 1050.773849n 0 1052.746442n 0 1052.766442n 1.8 1054.742892n 1.8
+ 1054.762892n 0 1056.739343n 0 1056.759343n 1.8 1058.741383n 1.8
+ 1058.761383n 0 1060.743424n 0 1060.763424n 1.8 1062.738429n 1.8
+ 1062.758429n 0 1064.733434n 0 1064.753434n 1.8 1066.726107n 1.8
+ 1066.746107n 0 1068.718781n 0 1068.738781n 1.8 1070.700207n 1.8
+ 1070.720207n 0 1072.681634n 0 1072.701634n 1.8 1074.699156n 1.8
+ 1074.719156n 0 1076.716679n 0 1076.736679n 1.8 1078.706188n 1.8
+ 1078.726188n 0 1080.695698n 0 1080.715698n 1.8 1082.680696n 1.8
+ 1082.700696n 0 1084.665693n 0 1084.685693n 1.8 1086.672653n 1.8
+ 1086.692653n 0 1088.679613n 0 1088.699613n 1.8 1090.684989n 1.8
+ 1090.704989n 0 1092.690365n 0 1092.710365n 1.8 1094.683908n 1.8
+ 1094.703908n 0 1096.677451n 0 1096.697451n 1.8 1098.675895n 1.8
+ 1098.695895n 0 1100.674340n 0 1100.694340n 1.8 1102.674520n 1.8
+ 1102.694520n 0 1104.674701n 0 1104.694701n 1.8 1106.664375n 1.8
+ 1106.684375n 0 1108.654049n 0 1108.674049n 1.8 1110.650369n 1.8
+ 1110.670369n 0 1112.646688n 0 1112.666688n 1.8 1114.646147n 1.8
+ 1114.666147n 0 1116.645605n 0 1116.665605n 1.8 1118.643553n 1.8
+ 1118.663553n 0 1120.641500n 0 1120.661500n 1.8 1122.634597n 1.8
+ 1122.654597n 0 1124.627694n 0 1124.647694n 1.8 1126.624444n 1.8
+ 1126.644444n 0 1128.621194n 0 1128.641194n 1.8 1130.639982n 1.8
+ 1130.659982n 0 1132.658769n 0 1132.678769n 1.8 1134.661851n 1.8
+ 1134.681851n 0 1136.664932n 0 1136.684932n 1.8 1138.667417n 1.8
+ 1138.687417n 0 1140.669902n 0 1140.689902n 1.8 1142.657261n 1.8
+ 1142.677261n 0 1144.644620n 0 1144.664620n 1.8 1146.638985n 1.8
+ 1146.658985n 0 1148.633351n 0 1148.653351n 1.8 1150.621414n 1.8
+ 1150.641414n 0 1152.609478n 0 1152.629478n 1.8 1154.614061n 1.8
+ 1154.634061n 0 1156.618644n 0 1156.638644n 1.8 1158.626998n 1.8
+ 1158.646998n 0 1160.635353n 0 1160.655353n 1.8 1162.625436n 1.8
+ 1162.645436n 0 1164.615519n 0 1164.635519n 1.8 1166.607752n 1.8
+ 1166.627752n 0 1168.599986n 0 1168.619986n 1.8 1170.585511n 1.8
+ 1170.605511n 0 1172.571036n 0 1172.591036n 1.8 1174.571770n 1.8
+ 1174.591770n 0 1176.572503n 0 1176.592503n 1.8 1178.566167n 1.8
+ 1178.586167n 0 1180.559830n 0 1180.579830n 1.8 1182.569158n 1.8
+ 1182.589158n 0 1184.578485n 0 1184.598485n 1.8 1186.561852n 1.8
+ 1186.581852n 0 1188.545218n 0 1188.565218n 1.8 1190.535725n 1.8
+ 1190.555725n 0 1192.526232n 0 1192.546232n 1.8 1194.530491n 1.8
+ 1194.550491n 0 1196.534749n 0 1196.554749n 1.8 1198.542374n 1.8
+ 1198.562374n 0 1200.550000n 0 1200.570000n 1.8 1202.547600n 1.8
+ 1202.567600n 0
+ )


** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.end
